US05505931
2-(4'-(Isothiocyanato)thiophenoxy) Maleic Anhydride (ACL-1)
The 2-[4'-(Isothio-cyanato)thiophenoxy]-3-hydroxymaleic acid (4.510 g, 15.07 mmol) was slurried in 140 mL of CHCl3 under nitrogen, treated with trifluoroacetic anhydride (5.30 mL, 7.88 g, 37.5 mmol), and heated to reflux. After 6.5 hours, the homogeneous reaction mixture was allowed to cool to room temperature, concentrated, taken up in hot CCl4 (80 mL), filtered hot, concentrated to one third volume, and diluted with 10 mL of hexane. Crystallization occurred upon standing at room temperature over 30 minutes. After storing at 0° C. an additional 2 hours, the light orange crystals of 2-[4'-(isothiocyanato)thiophenoxy] maleic anhydride (the titled compound) were collected by filtration, washed twice with 30 mL portions of hexane and dried overnight under vacuum (0.05 mm Hg).

reactant | 2-[4'-(Isothio-cyanato)thiophenoxy]-3-hydroxymaleic acid | 15.07 mmol, 4.510 g | N(=C=S)C1=CC=C(S/C(/C(=O)O)=C(/C(=O)O)\O)C=C1 | C11H7NO5S2
reactant | trifluoroacetic anhydride | 37.5 mmol, 5.30 mL, 7.88 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CHCl3 | 140 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4'-(Isothiocyanato)thiophenoxy) Maleic Anhydride | N(=C=S)C1=CC=C(S/C=2/C(=O)OC(\C2)=O)C=C1 | C11H5NO3S2
